US07863291B2
A mixture of 5-bromopyrazin-2-amine (5 g, 29 mmol), pyrrolidin-2-one (11 mL, 144 mmol), copper (T) iodide (1.1 g, 5.75 mmol), potassium carbonate (7.94 g, 57.5 mmol), and (1R,2R)-cyclohexane-1,2-diamine (1.38 mL, 11.49 mmol) was refluxed under nitrogen in dioxane (100 mL) for 18 h. After cooling, 200 mL ethyl acetate and 20 mL methanol were added to the reaction. This was filtered through celite, concentrated, and absorbed onto sodium sulfate for purification by column chromatography (0-5% methanol/methylene chloride). The purified product was recrystallized from ether/ethyl acetate to afford 1-(5-aminopyrazin-2-yl)pyrrolidin-2-one (1.57 g, 8.81 mmol, 30.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74 (1 H, d, J=1.51 Hz), 7.69 (1 H, d, J=1.51 Hz), 6.20 (2 H, s), 3.84 (2 H, t, J=7.05 Hz), 2.49 (2 H, t, J=7.93 Hz), 2.04 (2 H, dq, J=7.68, 7.51 Hz). MS (LC/MS) R.T.=0.48; [M+H]+=179.27.

reactant | 5-bromopyrazin-2-amine | 29 mmol, 5 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | pyrrolidin-2-one | 144 mmol, 11 mL | N1C(CCC1)=O | C4H7NO
reactant | potassium carbonate | 57.5 mmol, 7.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | (1R,2R)-cyclohexane-1,2-diamine | 11.49 mmol, 1.38 mL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | copper | 5.75 mmol, 1.1 g | [Cu] | Cu
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-aminopyrazin-2-yl)pyrrolidin-2-one | 8.81 mmol, 1.57 g, 30.7% yield | NC=1N=CC(=NC1)N1C(CCC1)=O | C8H10N4O
